US07678783B2
To a solution of 3-(methoxycarbonyl)-5-[(methylsulfonyl)oxy]benzoic acid (0.74 g, 2.7 mmol) in DCM (25 mL) was added dimethylaminopyridine (0.165 g, 1.35 mmol) and tert-butanol (0.226 g, 3.05 mmol). The reaction mixture was cooled to 0° C. To the reaction was added EDC (0.569 g, 2.97 mmol). The reaction stirred at 0° C. for 2 h and then warmed to room temp over 16 h. The reaction mixture was washed with 1N HCl, H2O, dried with MgSO4, filtered, concentrated and purified by flash chromatography (25 g silica, 10-30% EtOAc/hexanes) to give 0.74 g (83%) of tert-butyl methyl 5-[(methylsulfonyl)oxy]isophthalate. 1H NMR (400 MHz, CDCl3) δ 8.58 (m, 1H), 8.09 (m, 1H), 8.05 (m, 1H), 3.96 (s, 3H), 3.23 (s, 3H) 1.61 (s, 9H).

reactant | 3-(methoxycarbonyl)-5-[(methylsulfonyl)oxy]benzoic acid | 2.7 mmol, 0.74 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)OS(=O)(=O)C | C10H10O7S
reactant | dimethylaminopyridine | 1.35 mmol, 0.165 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tert-butanol | 3.05 mmol, 0.226 g | C(C)(C)(C)O | C4H10O
reactant | EDC | 2.97 mmol, 0.569 g
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl methyl 5-[(methylsulfonyl)oxy]isophthalate | 0.74 g, 83% | CS(=O)(=O)OC=1C=C(C=C(C(=O)OC(C)(C)C)C1)C(=O)OC | C14H18O7S
